US06958145B2
3-Butyl-4-oxo-2-pentenoic acid
Prepared from glyoxylic acid (15.2 g, 0.17 mol), 2-heptanone (34.2 g, 0.3 mol) and orthophosphoric acid (30 ml). 1H n.m.r. δ (CDCl3) 0.91, t J 7.2 Hz, 3H, CH3; 1.38, m, 4H, CH2; 2.39, s, 3H, CH3; 2.77, t J 7.2 Hz, 2H, CH2; 6.49, s, CH.

reactant | glyoxylic acid | 0.17 mol, 15.2 g | C(C=O)(=O)O | C2H2O3
reactant | 2-heptanone | 0.3 mol, 34.2 g | CC(CCCCC)=O | C7H14O
solvent | orthophosphoric acid | 30 ml | P(O)(O)(O)=O | H3O4P
product | 3-Butyl-4-oxo-2-pentenoic acid | C(CCC)C(=CC(=O)O)C(C)=O | C9H14O3
